US05073571
10-bromodecanoic acid (1.0 g, 3.98 mmol) was added to a solution of potassium hydroxide (0.893g, 15.9 mmol) in 1-propanethiol (30 mL) and methanol (30 mL) and stirred at 69° C for 18 hrs. The reaction was allowed to cool to room temperature after the addition of 20 mL water. After acidification to pH=1 and extraction into ethyl acetate, the organic phase was dried over sodium sulfate and solvent removed at reduced pressure to yield a white crystalline powder. The product was purified by silica column chromatography in 8% ethyl acetate/hexane/0.3% formic acid and recrystallization from hexane to yield 10-(propylthio)decanoic acid (210 mg, 21%), mp 42-43.5° C.; 1H NMR (300 MHz, CDC13) δ 0.96 (t, 3H, J=7.3, CH3) 1.15-1.40 (bm, 10H, methylene envelope), 1.49-1.64 (bm, 6H, CH3CH2CH2SCH2CH2, CH2CH2COOH), 2.32 (t, 2H, J=7.6, CH° COOH), 2.40-2.55 (bm, 4H, CH3CH2CH2SCH2), 10.93 (Br, 1H, COOH); 13C NMR (75.4 MHz, CDCL3) δ 13.64, 23.09, 24.71, 28.96, 29.07, 29.13, 29.24, 29.36, 29.77, 32.16, 34.10, 34.28, 179.98; m/z 247 (M+H).

reactant | 10-bromodecanoic acid | 3.98 mmol, 1.0 g | BrCCCCCCCCCC(=O)O | C10H19BrO2
reactant | potassium hydroxide | 15.9 mmol, 0.893g | [OH-].[K+]
reactant | water | 20 mL | O | H2O
reactant | 1-propanethiol | 30 mL | C(CC)S | C3H8S
solvent | methanol | 30 mL | CO | CH4O
product | 10-(propylthio)decanoic acid | 210 mg, 21% | C(CC)SCCCCCCCCCC(=O)O | C13H26O2S
